US09108953B2
A mixture of N-cyclopentyl-7-(3,5-dimethylisoxazol-4-yl)quinoline-5-sulfonamide (272 mg, 0.73 mmol) and mCPBA (max 77% by weight, 364 mg) in dichloromethane (5 mL) was stirred at room temperature for 2 hours. The reaction mixture was diluted with ethyl acetate and washed with aqueous sodium sulfite solution followed by brine. The organic layer was dried over sodium sulfate and concentrated. The residue was dissolved in POCl3 and heated at 80° C. for 1 hour. The reaction mixture was concentrated before being partitioned between ethyl acetate and aqueous sodium bicarbonate. The organic phase was dried over sodium sulfate and purified on silica gel (rf=0.42 in 2:1 hexanes:ethyl acetate) to give 2-chloro-N-cyclopentyl-7-(3,5-dimethylisoxazol-4-yl)quinoline-5-sulfonamide.

reactant | N-cyclopentyl-7-(3,5-dimethylisoxazol-4-yl)quinoline-5-sulfonamide | 0.73 mmol, 272 mg | C1(CCCC1)NS(=O)(=O)C=1C=2C=CC=NC2C=C(C1)C=1C(=NOC1C)C | C19H21N3O3S
reactant | mCPBA | 364 mg | C1=CC(=CC(=C1)Cl)C(=O)OO | C7H5ClO3
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-chloro-N-cyclopentyl-7-(3,5-dimethylisoxazol-4-yl)quinoline-5-sulfonamide | ClC1=NC=2C=C(C=C(C2C=C1)S(=O)(=O)NC1CCCC1)C=1C(=NOC1C)C | C19H20ClN3O3S
